US09359549B2
Synthesis of 5-(2-nitrophenyl)-2-phenylpyridine
2-Iodo-1-nitrobenzene (6.88 g, 27.64 mmol), 6-phenyl-3-pyridinylboronic acid (5.5 g, 27.64 mmol), potassium phosphate (17.6 g, 82.91 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (0.451 g, 0.522 mmol) and Pd2(bda)3 (0.119 g, 0.55 mmol) were to toluene (150 mL) and water (12 mL). Nitrogen was bubbled through the solution for 30 minutes and then the solution was refluxed for overnight in an atmosphere of nitrogen. The reaction was then allowed to cool to room temperature and the organic phase was separated from the aqueous phase. The aqueous phase was extracted with ethylacetate and the organic fractions were combined and dried over sodium sulfate and the solvent removed under vacuum. The product was chromatographed using silica gel with ethylacetate and hexanes as the eluent. The solvent was removed to give 5.02 g of the title compound.

reactant | 2-Iodo-1-nitrobenzene | 27.64 mmol, 6.88 g | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | 6-phenyl-3-pyridinylboronic acid | 27.64 mmol, 5.5 g | C1(=CC=CC=C1)C1=CC=C(C=N1)B(O)O | C11H10BNO2
reactant | potassium phosphate | 82.91 mmol, 17.6 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.522 mmol, 0.451 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | water | 12 mL | O | H2O
product | 5-(2-nitrophenyl)-2-phenylpyridine | 5.02 g | [N+](=O)([O-])C1=C(C=CC=C1)C=1C=CC(=NC1)C1=CC=CC=C1 | C17H12N2O2
